US06531502B1
A mixture of 5-tert-butoxycarbonylamino-2-oxindole (124 mg), indole-2-carbaldehyde (87 mg) (prepared according to Synthetic Communications, 1993, 23, 3109) and piperidine (4 mg) in ethanol (2 mL was held in a sealed tube at 90° C. for 3 hours. The mixture was cooled to room temperature. The solid was collected by vacuum filtration, washed with cold ethanol and dried in a vacuum overn to give 196 mg of 5-tert-butoxycarbonylamino-3-(1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one as a bright orange solid. The product was then dissolved in trifluoroacetic acid/dichloromethane (2 mL each) and stirred at room temperature for 1 hour. The reaction mixture was then concentrated. The residue was dissolved in water and basified with saturated sodium bicarbonate solution. The solid was collected by vacuum filtration, washed with water and dried in a vacuum oven to give 129 mg of 5-amino-3-(1H-indol-2-ylmethylene)-1,3-dihydroindol-2-one as a brown solid.

reactant | 5-tert-butoxycarbonylamino-2-oxindole | 124 mg | C(C)(C)(C)OC(=O)NC=1C=C2CC(NC2=CC1)=O | C13H16N2O3
reactant | indole-2-carbaldehyde | 87 mg | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
solvent | ethanol | C(C)O | C2H6O
catalyst | piperidine | 4 mg | N1CCCCC1 | C5H11N
product | 5-tert-butoxycarbonylamino-3-(1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one | 196 mg | C(C)(C)(C)OC(=O)NC=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=CC=C2C1 | C22H21N3O3
